US07176212B2
2-{4-[3-(N,N-Dimethyl)amino-2-hydroxypropoxy]anilino}-4-(2,4-difluoroanilino)pyrimidine
2-Chloro-4-(2,4-difluoroanilino)pyrimidine (Reference Example A-2; 174 mg, 0.72 mmol) was dissolved in n-butanol (2 ml) and 4-[3-(N,N-dimethyl)amino-2-hydroxypropoxy]aniline hydrochloride (Reference Example D-1; 198 mg, 0.72 mmol) was added. The resulting suspension was treated with methanol until all the solid dissolved. The reaction mixture was heated at 100° C. for 12 hours and allowed to cool to ambient temperature. The reaction mixture was then basified to pH 9–10 using methanolic ammonia and evaporated onto silica (5 ml). The residue was purified by column chromatography eluting with methanol (15%): DCM:aqueous ammonia(1%). The resulting gum was recrystallized from acetonitrile to give the title product as a solid (124 mg, 41%). NMR (300 MHz): 2.18 (s, 6H), 2.34 (m, 2H), 3.78 (m, 1H), 3.88 (m, 2H), 4.75 (brd, 1H), 6.18 (d, 1H), 6.75 (d, 2H), 7.03 (t, 1H), 7.32 (t, 1H), 7.48 (d, 2H), 7.88 (dd, 1H), 7.95 (d, 1H), 8.88 (s, 1H), 8.95(s, 1H); m/z: (ES+) 416.4 (MH+).

reactant | 2-Chloro-4-(2,4-difluoroanilino)pyrimidine | 0.72 mmol, 174 mg | ClC1=NC=CC(=N1)NC1=C(C=C(C=C1)F)F | C10H6ClF2N3
reactant | 4-[3-(N,N-dimethyl)amino-2-hydroxypropoxy]aniline hydrochloride | 0.72 mmol, 198 mg | Cl.CN(C)CC(COC1=CC=C(N)C=C1)O
reactant | methanol | CO | CH4O
reactant | ammonia | N | H3N
solvent | n-butanol | 2 ml | C(CCC)O | C4H10O
product | 2-{4-[3-(N,N-Dimethyl)amino-2-hydroxypropoxy]anilino}-4-(2,4-difluoroanilino)pyrimidine | 124 mg, 41% | CN(C)CC(COC1=CC=C(NC2=NC=CC(=N2)NC2=C(C=C(C=C2)F)F)C=C1)O | C21H23F2N5O2
